US06933387B2
c) (4R,10aR)-8-Bromo-4-methyl-7-trifluoromethyl-1,2,3,4,10,10a-hexahydro-pyrazino[1,2-a]indole hydrochloride
8-Bromo-4-methyl-7-trifluoromethyl-3,4,10,10a-tetrahydro-1H-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester (0.35 g, 0.8 mmol) were dissolved in dichloromethane (12 mL) and trifluoroacetic acid was added (3 mL). The mixture was stirred for 1 h, added to 1 N sodium hydroxide solution (50 mL) and extracted with dichloromethane (3×40 mL). Organic phases were pooled, washed with brine, dried with MgSO4 and the solvent was removed in vacuo. Chromatography on silica gel (dichloromethane/methanol 19:1) yielded the title compound as a colorless oil which was precipitated as HCl salt from diethylether (0.2 g; 73%). ISP-MS: m/e=335.2, 337.2 (M+H+), α D 20 = - 48.6 .

reactant | 8-Bromo-4-methyl-7-trifluoromethyl-3,4,10,10a-tetrahydro-1H-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester | 0.8 mmol, 0.35 g | C(C)(C)(C)OC(=O)N1CC2N(C=3C=C(C(=CC3C2)Br)C(F)(F)F)C(C1)C | C18H22BrF3N2O2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydroxide | 1 N, 50 mL | [OH-].[Na+]
reactant | dichloromethane | 12 mL | ClCCl | CH2Cl2
product | (4R,10aR)-8-Bromo-4-methyl-7-trifluoromethyl-1,2,3,4,10,10a-hexahydro-pyrazino[1,2-a]indole hydrochloride | Cl.BrC1=CC=2C[C@H]3N(C2C=C1C(F)(F)F)[C@@H](CNC3)C | InChI=1S/C13H14BrF3N2.ClH/c1-7-5-18-6-9-2-8-3-11(14)10(13(15,16)17)4-12(8)19(7)9;/h3-4,7,9,18H,2,5-6H2,1H3;1H/t7-,9-;/m1./s1
